US05340802
43c: Cbz-Pip
To a 0° C. suspension of pipecolic acid (0.15 g, 1.16 mmol) and potassium carbonate (4.64 mmol) in water (5 mL) and THF (5 mL) was added benzyl chloroformate (0.24 g, 1.41 mmol). The mixture was rapidly stirred for one hour then allowed to warm to ambient temperature. After 6 hours, the reaction was diluted with water and washed with ether. The aqueous layer was acidified and extracted with methylene chloride. The organic phase was washed with brine then dried over sodium sulfate. The solvent was evaporated and the residue recrystallized from hexane-ethyl acetate to yield 0.23 g (75% yield) of the title compound as a white solid. MS(CI) m/e 264 (M+H)+. 1H NMR (300 MHz, CDCl3) δ1.24-1.80 (m, 5H), 2.26 (br t, 1H), 2.93-3.14 (m, 1H), 4.00-4.19 (m, 1H), 4.87-5.05 (m, 1H), 5.15 (br s, 2H), 7.27-7.41 (m, 5H).

reactant | pipecolic acid | 1.16 mmol, 0.15 g | N1C(C(=O)O)CCCC1 | C6H11NO2
reactant | potassium carbonate | 4.64 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 1.41 mmol, 0.24 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 5 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Cbz-Pip | 0.23 g, 75% yield | N1([C@H](C(=O)O)CCCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO4
